US08431604B2
200.2 1-(5-tert-butyl-1H-pyrazole-3-yl)-2-methyl-isothiourea hydroiodide
270 mg (1.4 mmol) (5-tert-butyl-1H-pyrazole-3-yl)-thiourea were dissolved in 2 ml methanol, methyl iodide (202 mg, 1.4 mmol) was added and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, dichloremethane was added to the residue and the mixture was stirred at room temperature. The solid was suction-isolated and dried (0.43 g).

reactant | (5-tert-butyl-1H-pyrazole-3-yl)-thiourea | 1.4 mmol, 270 mg | C(C)(C)(C)C1=CC(=NN1)NC(=S)N | C8H14N4S
reactant | methyl iodide | 1.4 mmol, 202 mg | CI | CH3I
solvent | methanol | 2 ml | CO | CH4O
product | 1-(5-tert-butyl-1H-pyrazole-3-yl)-2-methyl-isothiourea hydroiodide | I.C(C)(C)(C)C1=CC(=NN1)NC(SC)=N | InChI=1S/C9H16N4S.HI/c1-9(2,3)6-5-7(13-12-6)11-8(10)14-4;/h5H,1-4H3,(H3,10,11,12,13);1H
